US08133889B2
Step A: 5-(4-Chloro-phenyl)-3,6-dihydro-[1,3,4]thiadiazin-2-one
A mixture of 2-bromo-1-(4-chloro-phenyl)-ethanone (90.71 mmoles) and hydrazine-carbothioic acid O-ethyl ester (90.71 mmoles) in acetonitrile (84 ml) is stirred at ambient temperature for 3 hours. The solid formed is filtered off, washed with acetonitrile and ethyl ether and then dried in vacuo to yield the title product, which is used directly in the next Step.

reactant | 2-bromo-1-(4-chloro-phenyl)-ethanone | 90.71 mmoles | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
reactant | hydrazine-carbothioic acid O-ethyl ester | 90.71 mmoles | C(C)OC(=S)NN | C3H8N2OS
solvent | acetonitrile | 84 ml | C(C)#N | C2H3N
product | 5-(4-Chloro-phenyl)-3,6-dihydro-[1,3,4]thiadiazin-2-one | ClC1=CC=C(C=C1)C1=NNC(SC1)=O | C9H7ClN2OS
